US07767651B2
4) Synthesis of 3-bromo-5-(4-ethylphenyl)-methyl-2-(2-trityloxyethyl)thiophene
Under a nitrogen stream, to a solution of 2-[3-bromo-5-((4-ethylphenyl)methyl)thiophen-2-yl]-ethanol (2.55 g, 7.84 mmol) in a mixture of anhydrous DMF (15 ml) and methylene chloride (15 ml), trityl chloride (3.29 g, 11.8 mmol) was added. To this solution, triethylamine (1.64 ml, 11.8 mmol) and 4-dimethylaminopyridine (77 mg, 0.63 mmol) were added at 0° C. The reaction mixture was stirred at 40° C. for 4 hours. After addition of water, the reaction mixture was extracted with methylene chloride. The organic layer was washed with saturated aqueous sodium chloride and dried over sodium sulfate. After filtration, the solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:20)) to give the titled compound (3.60 g, 81%).

reactant | 2-[3-bromo-5-((4-ethylphenyl)methyl)thiophen-2-yl]-ethanol | 7.84 mmol, 2.55 g | BrC1=C(SC(=C1)CC1=CC=C(C=C1)CC)CCO | C15H17BrOS
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | trityl chloride | 11.8 mmol, 3.29 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 11.8 mmol, 1.64 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.63 mmol, 77 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-bromo-5-(4-ethylphenyl)-methyl-2-(2-trityloxyethyl)thiophene | 3.60 g, 81% | BrC1=C(SC(=C1C)C1=CC=C(C=C1)CC)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H31BrOS
